US06200999B1
2) Ethyl 3-Hydroxy-4-methylisoxazole-5-carboxylate
3-Hydroxy-4-methylisoxazole-5-carboxylic acid (6.0 g, 42 mmol) and a saturated solution of HCl in EtOH (110 mL) was boiled under reflux for 4 h. The solution was concentrated in vacuo and the residue dissolved in EtOAc, dried (MgSO4) and evaporated in vacuo to give crude title compound (7.2 g, 100%). A small sample was recrystallized (EtOAc/heptane) to give colorless crystals: mp 133-134° C. The crude product was used in the next step without further purification.

reactant | 3-Hydroxy-4-methylisoxazole-5-carboxylic acid | 42 mmol, 6.0 g | OC1=NOC(=C1C)C(=O)O | C5H5NO4
reactant | HCl | Cl | ClH
reactant | EtOH | 110 mL | CCO | C2H6O
product | Ethyl 3-Hydroxy-4-methylisoxazole-5-carboxylate | 7.2 g, 100% | OC1=NOC(=C1C)C(=O)OCC | C7H9NO4
